US05760032
Ethyl 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(3,4-dichlorobenzoylaminomethyl) [1,2,4]triazol-5-yl)propionate (0.7 g) and a 2M aqueous sodium hydroxide solution (1.13 ml) were added to methanol (10 ml), and the mixture was stirred at 50° C. for 3 hours. The solvent was evaporated, and the residue was dissolved in water. Ethyl acetate was added to the solution for washing. The aqueous layer was taken out, and citric acid was added to adjust the solution to pH 3. The solution was extracted with ethyl acetate. The extract was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from diisopropyl ether to give 0.56 g of 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(3,4-dichlorobenzoylaminomethyl) [1,2,4]triazol-5-yl)propionic acid.

reactant | Ethyl 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(3,4-dichlorobenzoylaminomethyl) [1,2,4]triazol-5-yl)propionate | 0.7 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CCC(=O)OCC)CNC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C28H25Cl3N4O4S
reactant | sodium hydroxide | 2M, 1.13 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(3,4-dichlorobenzoylaminomethyl) [1,2,4]triazol-5-yl)propionic acid | 0.56 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CCC(=O)O)CNC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C26H21Cl3N4O4S
